US04169838
Preparation of 4-(4-phenyl-3-pyrazolyl)-4H-1,2,4-triazole hydrochloride
A suspension of 4-(4-phenyl-3-pyrazolyl)-4H-1,2,4-triazole (1.75 g) in methanol (25 ml) and water (10 ml) is stirred and concentrated hydrochloric acid added until a clear solution is obtained. The solvent is removed and the residue recrystallized from methanol/ether at -10° C. Yield 1.7 g (90%), m.p. 210° C. to 216° C. (dec).

reactant | 4-(4-phenyl-3-pyrazolyl)-4H-1,2,4-triazole | 1.75 g | C1(=CC=CC=C1)C=1C(=NNC1)N1C=NN=C1 | C11H9N5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-(4-phenyl-3-pyrazolyl)-4H-1,2,4-triazole hydrochloride | Cl.C1(=CC=CC=C1)C=1C(=NNC1)N1C=NN=C1 | InChI=1S/C11H9N5.ClH/c1-2-4-9(5-3-1)10-6-12-15-11(10)16-7-13-14-8-16;/h1-8H,(H,12,15);1H
